US07238808B2
5-[5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide
The title compound was prepared from 5-(3,4-dichloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.9) (89 mg, 0.25 mmol) and 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide (Example B.4) (81 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (24 mg, 16%). MS (ISN) 598.2 [(M−H)−].

reactant | 5-(3,4-dichloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 89 mg | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C15H6Cl2F3N3
reactant | 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | 0.25 mmol, 81 mg | OCC(C)(CO)NS(=O)(=O)C=1C=NC=C(C1)Br | C9H13BrN2O4S
product | 5-[5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | OCC(C)(CO)NS(=O)(=O)C=1C=NC=C(C1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)Cl)Cl | C24H18Cl2F3N5O4S
